US05393729
1.0 g (10 mmol) of triethylamine and then 0.8 g (10 mmol) of acetyl chloride are added dropwise at 0° C. to 3.2 g (10 mmol) of 5-ethoxycarbonyl-4-hydroxy-6-methyl-3-(2,4,6-trimethylphenyl)pyrone in ml of ethyl acetate. The mixture is stirred for 20 hours at 20° C. and filtered, the organic phase is washed with semi-concentrated sodium chloride solution and dried over sodium sulphate and the solvent is evaporated in vacuo. The residue is chromatographed on silica gel (35-70 μm) using toluene/acetone (40:1 parts by volume). 2.9 g of 4-acetoxy-5-ethoxycarbonyl-6-methyl-3-(2,4,6-trimethylphenyl)pyrone are obtained (yield: 81% of theory). M.p.=107° to 109° C.

reactant | triethylamine | 10 mmol, 1.0 g | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 10 mmol, 0.8 g | C(C)(=O)Cl | C2H3ClO
reactant | 5-ethoxycarbonyl-4-hydroxy-6-methyl-3-(2,4,6-trimethylphenyl)pyrone | 10 mmol | C(C)OC(=O)C=1C(=C(C(OC1C)=O)C1=C(C=C(C=C1C)C)C)O | C18H20O5
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-acetoxy-5-ethoxycarbonyl-6-methyl-3-(2,4,6-trimethylphenyl)pyrone | 2.9 g, yield: 81% | C(C)(=O)OC1=C(C(OC(=C1C(=O)OCC)C)=O)C1=C(C=C(C=C1C)C)C | C20H22O6
